US08017604B2
Step 1: 5-Morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-ylamine
A mixture of 2-morpholin-4-yl-pyrimidine-4,6-diamine (1.0 g, 5.1 mmol), ω-bromoacetophenone (1.02 g, 5.1 mmol), NaHCO3 (473 mg, 6 mmol) and methanol (15 ml) was heated under an atmosphere of argon to reflux (3 h). After cooling, water (10 ml) was added (the gummy precipitate could not be isolated). Methanol was evaporated, the residue was taken up in ethyl acetate, washed (water), and dried (Na2SO4). The solvent was evaporated and the title compound (900 mg, 50%) was isolated from the mixture by column chromatography (silica gel, heptane:ethyl acetate=80:20-60:40). MS (m/e)=296.3 [M+H+].

reactant | 2-morpholin-4-yl-pyrimidine-4,6-diamine | 5.1 mmol, 1.0 g | N1(CCOCC1)C1=NC(=CC(=N1)N)N | C8H13N5O
reactant | ω-bromoacetophenone | 5.1 mmol, 1.02 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | NaHCO3 | 6 mmol, 473 mg | C(=O)(O)[O-].[Na+]
reactant | methanol | 15 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5-Morpholin-4-yl-2-phenyl-imidazo[1,2-c]pyrimidin-7-ylamine | 900 mg, 50% | N1(CCOCC1)C1=NC(=CC=2N1C=C(N2)C2=CC=CC=C2)N | C16H17N5O
